US04288437
(E)-2-[(Amino)-(2-chlorophenyl)methylene]-5-chlorobenzo[b]-thiophen-3(2H)-one
Prepared as in Example 1 from 2-(2-chlorobenzoyl)-5-chlorobenzo[b]thiophen-3-ol, phosphorus(V) chloride and concentrated aqueous ammonia with a yield of 40% of theory; m.p. 199°-201° C. (ethyl acetate).

reactant | 2-(2-chlorobenzoyl)-5-chlorobenzo[b]thiophen-3-ol | ClC1=C(C(=O)C2=C(C3=C(S2)C=CC(=C3)Cl)O)C=CC=C1 | C15H8Cl2O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-[(Amino)-(2-chlorophenyl)methylene]-5-chlorobenzo[b]-thiophen-3(2H)-one | yield of 40% | N\C(=C\1/C(C2=C(S1)C=CC(=C2)Cl)=O)\C2=C(C=CC=C2)Cl | C15H9Cl2NOS
